US04550981
The crude 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid 3-chloro-4-(chlorocarbonyl)phenyl ester obtained was dissolved in 150 ml of benzene and then added dropwise to a solution of 1.2 g of 3-chloro-4-nitrophenol in 110 ml of dry pyridine. The mixture was stirred at 65° C. overnight, then poured into a mixture of 500 ml of ice-water and 100 ml of concentrated hydrochloric acid and extracted with diethyl ether. The extract was washed three times with 100 ml of 3N hydrochloric acid each time and three times with 200 ml of water each time, then dried and evaporated. The crude 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid 3-chloro-4-[(3-chloro-4-nitrophenoxy)carbonyl]phenyl ester obtained was chromatographed on silica gel with toluene/acetone (volume ratio 19:1). The fractions which were almost pure according to thin-layer chromatography (2.8 g) were recrystallized twice from ethyl acetate; m.p. (C-N) 132° C., cl.p. >250° C. (decomposition).

reactant | 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid 3-chloro-4-(chlorocarbonyl)phenyl ester | ClC=1C=C(C=CC1C(=O)Cl)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C31H32Cl2O3
reactant | 3-chloro-4-nitrophenol | 1.2 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 110 ml | N1=CC=CC=C1 | C5H5N
product | 4'-(trans-4-pentylcyclohexyl)-4-biphenylcarboxylic acid 3-chloro-4-[(3-chloro-4-nitrophenoxy)carbonyl]phenyl ester | ClC=1C=C(C=CC1C(=O)OC1=CC(=C(C=C1)[N+](=O)[O-])Cl)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C37H35Cl2NO6
